Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ bladder mass (s/p TURBT ___, HTN, chronic cough for 
several months, recurrent atypical chest pain, who is admitted 
for worsening dyspnea of unclear etiology.

The patient has a history of numerous symptoms that had onset 
after her MVA, including intermittent atypical chest pain (mild 
retrosternal tightness with radiation to the mid-back) and also 
nausea. In ___ she had an EGD, which was essentially normal 
except for a small hiatal hernia; she was placed on a trial of 
BID PPI but had no improvement in her symptoms. She had an 
exercise treadmill test where she was found to have excellent 
exercise capacity (10 minutes on ___ protocol to ___ METs), 
and had no EKG changes but DID have her usual chest pain 
elicited during the study. 

For the past several months she has had intermittent dry cough, 
which may have been partially improved by empiric antibiotics 
and is not currently active. 

She has also had worsening dyspnea. She has felt subjective, 
mild dyspnea for a few weeks, which has worsened progressively 
ever since an intubation for TURBT on ___. The dyspnea has 
especially been getting worse over the past three days. It is 
mild at rest and worsens on exertion.

The patient also reports hoarseness and mild orophayngeal 
dysphagia ongoing since this intubation. She has had poor PO 
intake for the past week due to this and reports she has started 
to feel a bit lightheaded on standing. 

She presented to the ___ ED for evaluation. Vitals were: temp 
96.6, HR 78, BP 161/82, RR 28, 100% on RA. VBG suggested 
chronically compensated respiratory alkalosis with pCO2 of 25 
and bicarb of 21. CTPA showed no PE, no aortic pathology, no 
pulmonary parenchymal abnormalities other than mild dependent 
atelectasis (far to mild to explain symptoms per my CT read). 

REVIEW OF SYSTEMS
GEN: denies fevers/chills
CARDIAC: chest pain as per HPI. No palpitations. No othopnea, 
although she prefers to leep upright due to neck pain.
PULM: as per HPI
GI: denies n/v, denies change in bowel habits
PSYCH: denies feeling anxious
Full 14-system review of systems otherwise negative and 
non-contributory. 
 
Past Medical History:
Bladder mass s/p TURBT ___ (pathology pending, but low 
suspicion for cancer per patient report)
Pyuria (urine culture grew GBS, which was successfully treated 
with antibiotics, but pyuria persisted with negative culture).
Chronic cough
Recurrent chest pain
Mitral regurgitation
HTN
Hyperaldosteronism
Fibromyalgia  
MVA in ___ c/b post-traumatic tension headaches and occipital 
neuralgia
Venous insufficiency
Small hiatal hernia 
Fibroadenoma
 
Social History:
___
Family History:
Mother reportedly had an MI in her ___ (but no ongoing heart 
problems). Brother had a thymoma. 
 
Physical Exam:
GEN: well-appearing woman in NAD
HEENT: EOMI, sclerae anicteric, MMM, OP clear 
NECK: No LAD, no JVD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use, LCAB. Pauses to 
breathe during longer sentences. 
GI: soft, NT, ND, NABS
MSK: No visible joint effusions or deformities.
DERM: No visible rash. No jaundice.
NEURO: AAOx3. No facial droop, moving all extremities.
PSYCH: Full range of affect
EXTREMITIES: WWP, no edema
 
Pertinent Results:
*****************
ADMISSION LABS
*****************
___ 11:10AM   WBC-10.7* RBC-4.20 HGB-12.0 HCT-35.2 MCV-84 
MCH-28.6 MCHC-34.1 RDW-13.2 RDWSD-40.3
___ 11:10AM   NEUTS-65.5 ___ MONOS-7.3 EOS-0.8* 
BASOS-0.6 IM ___ AbsNeut-6.99* AbsLymp-2.70 AbsMono-0.78 
AbsEos-0.08 AbsBaso-0.06
___ 11:10AM   PLT COUNT-369
___ 11:10AM   GLUCOSE-84 UREA N-14 CREAT-1.2* SODIUM-136 
POTASSIUM-4.0 CHLORIDE-98 TOTAL CO2-17* ANION GAP-25*
___ 11:10AM   LACTATE-2.8*
___ 06:00PM   cTropnT-<0.01

*****************
IMAGING
*****************

CTPA ___
The aorta and its major branch vessels are patent, with no 
evidence of 
stenosis, occlusion, dissection, or aneurysmal formation.  There 
is no 
evidence of penetrating atherosclerotic ulcer or aortic arch 
atheroma present. 
The pulmonary arteries are well opacified to the subsegmental 
level, with no evidence of filling defect within the main, 
right, left, lobar, segmental or subsegmental pulmonary 
arteries. The main and right pulmonary arteries are normal in 
caliber, and there is no evidence of right heart strain. 
There is no supraclavicular, axillary, mediastinal, or hilar 
lymphadenopathy.  
There is no evidence of pericardial effusion. There is no 
pleural effusion. 
There is no evidence of pulmonary parenchymal abnormality.  
There is mild 
bilateral atelectasis in the dependent regions.  The airways are 
patent to the subsegmental level. 
Limited images of the upper abdomen are unremarkable. 

*****************
PRIOR WORKUP
*****************

EGD ___
A small size hiatal hernia was seen. No esophagitis noted.  
Pathology negative for Barretts. 
Normal stomach. Pathology negative for H pylori. 
Normal duodenum. 

ETT ___ (at ___)
Exercised for ten minutes to ___ METs on ___ protocol. 
Test elicited her usual ___ chest pain without any ischemic EKG 
changes.

DC LABS:
___ 07:10AM BLOOD WBC-9.3 RBC-4.09 Hgb-11.4 Hct-34.6 MCV-85 
MCH-27.9 MCHC-32.9 RDW-13.7 RDWSD-42.5 Plt ___
___ 10:05AM BLOOD Glucose-95 UreaN-9 Creat-0.9 Na-138 K-3.8 
Cl-100 HCO3-24 AnGap-___ w/ bladder mass (s/p TURBT ___, HTN, chronic cough for 
several months, recurrent atypical chest pain, who is admitted 
for dyspnea and atypical chest pain of unclear etiology.

DYSPNEA
Possible atelectasis
Possible acid reflux
Imaging reviewed.  CXR and CTA negative for serious pathology 
save for atelectasis.  BNP and trop negative/normal.  Exam 
normal.  VBG suggestive of hyperventilation.  Prior stress test 
reviewed.  Her symptoms correlated with her surgery and thus we 
suspected a possible laryngeal issue, + atelectasis, +/- 
aspiration or GERD.  No signs of infection, PE, CHF, and would 
be unusual to suddenly develop ILD.  Clinically she looked well 
with no objective pathology.  ENT consulted and exam was
normal.  Given concern for GERD, we initiated a trial of 
Omeprazole and Ranitidine x14 days.  We encouraged IS and deep 
breathing exercises.  Her symptoms did improve on discharge but 
were not entirely resolved.  Close PCP follow up was recommended 
to re-assess.  Could consider video swallow, high res CT, stress 
test with imaging, pulm referral as next steps.

ATYPICAL CHEST PAIN:
Not assoc with above.  EKG stable.  Prior stress test reviewed. 
Troponin neg.  Consider repeat stress as outpatient

RECENT TURBT
Underwent TURBT on ___.  Foley removed and received 
antibiotics.  Urinated well. Ucx with <100k enterococci so did 
not treat
- continued PRN pyridium, oxybutynin and tramadol

HTN and HYPERALDOSTERONISM
- continued spironolactone 25 mg PO daily and amlodipine 5 mg PO 
daily

PPX: heparin SQ
CODE: FULL presumed

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
2. Phenazopyridine 100 mg PO TID:PRN Bladder pain 
3. Oxybutynin 5 mg PO TID:PRN Bladder spasm 
4. Docusate Sodium 100 mg PO BID:PRN Constipation 
5. Spironolactone 25 mg PO DAILY 
6. amLODIPine 5 mg PO DAILY 

omeprazole?
Gabapentin 100 qHS?
 
Discharge Medications:
1.  Omeprazole 20 mg PO BID Duration: 14 Days 
RX *omeprazole 20 mg 1 capsule(s) by mouth twice a day Disp #*14 
Capsule Refills:*0 
2.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth once a day Disp 
#*14 Tablet Refills:*0 
3.  amLODIPine 5 mg PO DAILY  
4.  Docusate Sodium 100 mg PO BID:PRN Constipation  
5.  Gabapentin 100 mg PO QHS  
6.  Oxybutynin 5 mg PO TID:PRN Bladder spasm  
7.  Phenazopyridine 100 mg PO TID:PRN Bladder pain  
8.  Spironolactone 25 mg PO DAILY  
9.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dyspnea
Atypical chest pain
s/p TURBT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with shortness of breath acutely, and chronic 
chest pain.  Blood testing and imaging was negative for any 
clear or serious diagnosis.  We recommend deep breathing 
exercises, rest, and close follow up with your PCP.  We 
recommend a trial of acid blocking medication.

If your symptoms to not resolve, we recommend consideration of 
video swallow, repeat stress testing, pulmonology referral
 
Followup Instructions:
___